US07262185B2
To a suspension of [4-azido-2-(trifluoromethyl)phenyl](2-pyridyl)methanone (2.0 g) in THF (20 ml) was added dropwise a solution of aluminum lithium hydride (520 mg) in. THF (20 ml) at 0° C. under nitrogen atmosphere. After finishing the dropping, the mixture was allowed to be at room temperature, and the mixture was stirred for 1 hour. Water (0.52 ml), 15% aqueous solution of sodium hydroxide (0.52 ml) and water (1.6 ml) were sequentially added to the mixture at 0° C., and the mixture was allowed to be at room temperature and the mixture was stirred overnight. Magnesium sulfate was added to the mixture, and the unnecessary substances were filtered off. The solvent was distilled off under reduced pressure and the obtained residue was recrystallized from hexane-ethyl acetate, to give [4-amino-2-(trifluoromethyl)phenyl](2-pyridyl)methanol (1.51 g) as colorless crystals.

reactant | [4-azido-2-(trifluoromethyl)phenyl](2-pyridyl)methanone | 2.0 g | N(=[N+]=[N-])C1=CC(=C(C=C1)C(=O)C1=NC=CC=C1)C(F)(F)F | C13H7F3N4O
reactant | aluminum lithium hydride | 520 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.52 ml | [OH-].[Na+]
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 1.6 ml | O | H2O
solvent | Water | 0.52 ml | O | H2O
product | [4-amino-2-(trifluoromethyl)phenyl](2-pyridyl)methanol | 1.51 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC=C1)C(F)(F)F | C13H11F3N2O
